US06645990B2
14] N,N-Diethylcarbamoyl-piperidine-3-carboxamide (0.92 mL, 5.92 mmol) was added to a solution of 6-bromo-2-pyridinecarboxaldehyde (1.0 g, 5.38 mmol) to give N,N-diethyl 1-(6-bromopyridin-2-ylmethyl)piperidine-3-carboxamide as a colorless oil. MS m/z: 354.1 (M+H). Calc'd for C16H24BrN3O—354.29.

reactant | N,N-Diethylcarbamoyl-piperidine-3-carboxamide | 5.92 mmol, 0.92 mL | C(C)N(C(=O)C1CN(CCC1)C(N)=O)CC | C11H21N3O2
reactant | 6-bromo-2-pyridinecarboxaldehyde | 5.38 mmol, 1.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
product | N,N-diethyl 1-(6-bromopyridin-2-ylmethyl)piperidine-3-carboxamide | C(C)N(C(=O)C1CN(CCC1)CC1=NC(=CC=C1)Br)CC | C16H24BrN3O
